US06812227B2
To a solution of 2.123 g (8.093 mmol) of triphenylphosphine and 0.373 mL (4.61 mmol) of pyridine in 40 mL of dry THF under nitrogen was added 1.73 g (4.046 mmol) of methyl 4-({4-[(5-hydroxy-2-pentynyl)oxy]phenyl}sulfonyl)-2,2-dimethyl-3-thiomorpholine carboxamide. The solution was cooled in a water bath and 1.34 g (4.046 mmol) of carbon tetrabromide was added and the resulting mixture was stirred for 3 h. The resulting suspension was filtered and the filtrate was concentrated in vacuo. The residue was chromatographed on silica gel eluting with ethyl acetate:hexanes (1:8) to provide 1.726 g (87%) of methyl 4-({4-[(5-bromo-2-pentynyl)oxy]phenyl}sulfonyl)-2,2-dimethyl-3-thiomorpholine carboxamide as a pale yellow oil. Electrospray Mass Spec: 492.0 (M+H)+

reactant | triphenylphosphine | 8.093 mmol, 2.123 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | pyridine | 4.61 mmol, 0.373 mL | N1=CC=CC=C1 | C5H5N
reactant | methyl 4-({4-[(5-hydroxy-2-pentynyl)oxy]phenyl}sulfonyl)-2,2-dimethyl-3-thiomorpholine carboxamide | 4.046 mmol, 1.73 g | CC1(N(CCSC1(C)C)S(=O)(=O)C1=CC=C(C=C1)OCC#CCCO)C(=O)N | C19H26N2O5S2
reactant | carbon tetrabromide | 4.046 mmol, 1.34 g | C(Br)(Br)(Br)Br | CBr4
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | methyl 4-({4-[(5-bromo-2-pentynyl)oxy]phenyl}sulfonyl)-2,2-dimethyl-3-thiomorpholine carboxamide | 1.726 g, 87% | CC1(N(CCSC1(C)C)S(=O)(=O)C1=CC=C(C=C1)OCC#CCCBr)C(=O)N | C19H25BrN2O4S2
